US07763639B2
3-(1-ETHYLPIPERIDIN-4-YL)-2-FLUOROPHENOL
Preparation according to preparation 18: 3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)-2-fluorophenol (1.1 g, 4.97 mmol), methanol (20 ml), palladium on carbon (0.26 g) and hydrochloric acid (0.2 ml, conc). Yield: 1.1 g. MS m/z (relative intensity, 70 eV) 223 (M+, 32), 222 (17), 209 (13), 208 (bp) 84 (20).

reactant | 3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)-2-fluorophenol | 4.97 mmol, 1.1 g | C(C)N1CCC(=CC1)C=1C(=C(C=CC1)O)F | C13H16FNO
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
catalyst | palladium on carbon | 0.26 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 3-(1-ETHYLPIPERIDIN-4-YL)-2-FLUOROPHENOL | C(C)N1CCC(CC1)C=1C(=C(C=CC1)O)F | C13H18FNO
